US05783572
A solution of sodium methoxide (38 mL , 25% solution in methanol, 175 mmol) was added over 10 minutes to a solution of 5-methyl-2,3,6,7-tetrachloroquinoxaline (21 g, 74 mmol) in dry tetrahydrofuran (200 mL) at 20° C. There was a mildly exothermic reaction followed by formation of a precipitate. After 1 hour the mixture was diluted with ethyl acetate (3 L), washed with water (1 L), dried (MgSO4) and concentrated under reduced pressure to give 6,7dichloro-2,3-dimethoxy-5-methylquinoxaline (20.3 g, 100%).

reactant | sodium methoxide | 175 mmol, 38 mL | C[O-].[Na+]
reactant | 5-methyl-2,3,6,7-tetrachloroquinoxaline | 74 mmol, 21 g | CC1=C2N=C(C(=NC2=CC(=C1Cl)Cl)Cl)Cl | C9H4Cl4N2
reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 3 L | C(C)(=O)OCC | C4H8O2
product | 6,7dichloro-2,3-dimethoxy-5-methylquinoxaline | 20.3 g, 100% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)C | C11H10Cl2N2O2
